US07968573B2
A mixture of 3.5 g of 3-trifluoromethyl-1H-1,2,4-triazole, 3.8 g of 2,3-dichloropyridine, 6.0 g of potassium carbonate and 30 ml of N,N-dimethylformamide was stirred at 120° C. for 27 hours. After the reaction mixture was allowed to cool to room temperature, water was poured and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 0.72 g of 3-chloro-2-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)pyridine of the formula:

reactant | 3-trifluoromethyl-1H-1,2,4-triazole | 3.5 g | FC(C1=NNC=N1)(F)F | C3H2F3N3
reactant | 2,3-dichloropyridine | 3.8 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-chloro-2-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)pyridine | 0.72 g | ClC=1C(=NC=CC1)N1N=C(N=C1)C(F)(F)F | C8H4ClF3N4
